US08030499B2
Step 243-1: Synthesis of 5-chloro-3-(2,5-dimethylphenyl)-3-hydroxy-1,3-dihydro-2H-indol-2-one
With 8.00 g of 1-bromo-2,5-dimethyl benzene and 5.79 g of 5-chloroisatin as starting materials, 8.15 g of the title compound (colorless amorphous) was obtained by a similar method to Step 21-1.

reactant | 1-bromo-2,5-dimethyl benzene | 8.00 g | BrC1=C(C=CC(=C1)C)C | C8H9Br
reactant | 5-chloroisatin | 5.79 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
product | 5-chloro-3-(2,5-dimethylphenyl)-3-hydroxy-1,3-dihydro-2H-indol-2-one | 8.15 g | ClC=1C=C2C(C(NC2=CC1)=O)(O)C1=C(C=CC(=C1)C)C | C16H14ClNO2
